US09278964B2
Preparation of (Z)-3-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-1-methyl-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (FB51)
The title compound was prepared as described in Example 95 using N-methyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine (CB24) and (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate (CA50), purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent and isolated as a pale orange foam (0.160 g, 63%).

reactant | N-methyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine | CNCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H17F3N4O
reactant | (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H19N3O5S
product | (Z)-3-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-1-methyl-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(N(CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C32H31F3N6O3S
